US04673673
A solution of 7.0 g of 17β-hydroxy-1α-methyl-4-androsten-3-one in 500 ml of benzene is combined with 80 ml of 1,2-ethanediol and 400 mg of p-toluenesulfonic acid and the evolving water is distilled off azeotropically within 20 hours. After cooling of the reaction mixture, the latter is combined with 5 ml of pyridine, washed with water, dried over sodium sulfate, and concentrated under vacuum. The residue is chromatographed on silica gel, thus obtaining with hexane-ethyl acetate gradients (25-30% ethyl acetate) 6.3 g of 3,3-ethylenedioxy-1α-methyl-5-androsten-17β-ol.

reactant | 17β-hydroxy-1α-methyl-4-androsten-3-one | 7.0 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C[C@@H]([C@]3(C)[C@H]1CC2)C)=O | C20H30O2
reactant | 1,2-ethanediol | 80 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 400 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 3,3-ethylenedioxy-1α-methyl-5-androsten-17β-ol | 6.3 g, 25-30% | C1OC2(CC3=CC[C@H]4[C@@H]5CC[C@@H]([C@@]5(C)CC[C@@H]4[C@]3([C@H](C2)C)C)O)OC1 | C22H34O3
